US20010047105A1
Following the procedure described for Preparation 8, Step A, tetrahydro-pyrrolizine-3,5-dione (2 g, 14 mmol) was reacted with 3-fluorobenzylmagnesium chloride (0.25M in Et2O, 62 mL, 15.5 mmol) over 2.5 h. Purification by medium pressure chromatography using a solvent gradient (1:1 hexanes:EtOAc to 2:1 EtOAc:hexanes to EtOAc to 2% MeOH in CH2Cl2 to 10% MeOH in CH2Cl2) provided 5-[4-(3-fluoro-phenyl)-3-oxo-butyl]-pyrrolidin-2-one (2.1730 g). 1H NMR (CDCl3) δ7.32-7.27 (m, 1H), 7.00-6.90 (m, 3H), 6.12 (bs, 1H), 3.69 (s, 2H), 3.59 (m, 1H), 2.52 (t, 2H), 2.30 (m, 2H), 2.19 (m, 1H), 1.75 (m, 2H), 1.65 (m, 1H).

reactant | tetrahydro-pyrrolizine-3,5-dione | 14 mmol, 2 g | C1CC(N2C(CCC12)=O)=O | C7H9NO2
reactant | 3-fluorobenzylmagnesium chloride | 15.5 mmol, 0.25M, 62 mL | FC=1C=C(C[Mg]Cl)C=CC1
product | 5-[4-(3-fluoro-phenyl)-3-oxo-butyl]-pyrrolidin-2-one | 2.1730 g | FC=1C=C(C=CC1)CC(CCC1CCC(N1)=O)=O | C14H16FNO2
